US07524840B2
(2-amino-5-methoxy-4-(2-methoxyethoxy)phenyl)-(2-chlorophenyl)-methanone (Xgg) was prepared by reacting 2-chlorobenzaldehyde with 0.0296 moles of 4-methoxy-3-(2-methoxyethoxy) aniline in a manner analogous to Example 1. MH+/Z=336.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-methoxy-3-(2-methoxyethoxy) aniline | 0.0296 moles | COC1=C(C=C(N)C=C1)OCCOC | C10H15NO3
product | (2-amino-5-methoxy-4-(2-methoxyethoxy)phenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)OCCOC)OC)C(=O)C1=C(C=CC=C1)Cl | C17H18ClNO4
